US09284333B2
To a solution of 3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ((R)-1-phenyl-propyl)-amide (Comp. No. 9a) (8.5 g, 29.9 mmol) in anhydrous dichloromethane (33 ml) was added trichloro-acetyl chloride (16.3 g, 89.7 mmol). The resulting mixture was stirred overnight at room temperature, after which a second portion of trichloro-acetyl chloride (3 ml) was added. The resulting mixture was stirred for 6 h at 40° C., and then at 25° C. over 2 days, evaporated to dryness. Methyl tert-butyl ether (60 ml) was added and the mixture was stirred. The product precipitated, was filtered off, washed with a small amount of methyl tert-butyl ether and dried in vacuo to give 9.8 g (76%) of 6-(2,2,2-trichloro-acetyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ((R)-1-phenyl-propyl)-amide. LC/MS (method 4): Rt=1.34 min; m/z=429.01 (M+H+).

reactant | 3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ((R)-1-phenyl-propyl)-amide | C1(=CC=CC=C1)[C@@H](CC)NC(=O)C=1C=CN2C1COCC2 | C17H20N2O2
reactant | trichloro-acetyl chloride | 89.7 mmol, 16.3 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | trichloro-acetyl chloride | 3 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | dichloromethane | 33 ml | ClCCl | CH2Cl2
product | 6-(2,2,2-trichloro-acetyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ((R)-1-phenyl-propyl)-amide | 9.8 g, 76% | C1(=CC=CC=C1)[C@@H](CC)NC(=O)C=1C=C(N2C1COCC2)C(C(Cl)(Cl)Cl)=O | C19H19Cl3N2O3
